US08877772B2
Preparation of 2-bromo-7-(1H-indol-5-yl)-5-tosyl-5H-pyrrolo[3,2-b]pyrazine (Intermediate AV)
To a stirred suspension of 2-bromo-7-iodo-5-tosyl-5H-pyrrolo[3,2-b]pyrazine [Intermediate AU] (0.25 g, 0.52 mmol) and 1H-indol-5-ylboronic acid (0.10 mg, 0.62 mmol) in CH3CN (20 mL) was added 1 M Na2CO3 (20 mL) followed by bis(triphenylphosphine)-palladium(II)dichloride (60 mg, 0.086 mmol). The resulting mixture was stirred for 2 h at 60° C. The title compound was isolated as a yellow solid via filtration from the CH3CN layer (0.23 g, 94%). HPLC retention time: 3.23 minutes. MS ESI (m/z): 467.2/469.2 (M+H)+, calc. 466.

reactant | 2-bromo-7-iodo-5-tosyl-5H-pyrrolo[3,2-b]pyrazine | 0.52 mmol, 0.25 g | BrC1=CN=C2C(=N1)C(=CN2S(=O)(=O)C2=CC=C(C)C=C2)I | C13H9BrIN3O2S
reactant | 1H-indol-5-ylboronic acid | 0.62 mmol, 0.10 mg | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | Na2CO3 | 1 M, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
catalyst | bis(triphenylphosphine)-palladium(II)dichloride | 0.086 mmol, 60 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | CH3CN | 0.23 g | CC#N | C2H3N
product | 2-bromo-7-(1H-indol-5-yl)-5-tosyl-5H-pyrrolo[3,2-b]pyrazine | BrC1=CN=C2C(=N1)C(=CN2S(=O)(=O)C2=CC=C(C)C=C2)C=2C=C1C=CNC1=CC2 | C21H15BrN4O2S
